US04049672
Lead cyanamide (3.0 g.) was added to a solution of N-methyl-N'-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]thiourea (2.44 g.) in acetonitrile (50 ml.). Dimethylformamide (20 ml.) was added subsequently and the suspension was heated under reflux, with stirring, for 24 hours. Filtration, followed by concentration under reduced pressure and purification of the product by chromatography on a column of silica gel with acetonitrile as eluant and recrystallisation from the same solvent afforded N-cyano-N'-methyl-N"[(2-((4-methyl-5-imidazolyl)-methylthio)ethyl]guanidine, m.p. 139°-141°. (Found: C. 47.3; H, 6.6; N, 33.4; S, 12.6. C10N16N6S requires: C, 47.6; N, 6.4; N. 33.3; S, 12.7).

reactant | Lead cyanamide | 3.0 g | N#CN.[Pb]
reactant | N-methyl-N'-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]thiourea | 2.44 g | CNC(=S)NCCSCC1=C(N=CN1)C | C9H16N4S2
reactant | Dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | (2-((4-methyl-5-imidazolyl)-methylthio)ethyl]guanidine | CC=1N=CNC1CSCCNC(=N)N | C8H15N5S
